US07884244B2
4-Methyl-indan-1-ylamine:
The title amine was generated from 4-methyl-indan-1-one (5.00 g, 34.20 mmol), NaBH3CN (15.00 g, 0.24 mol) and NH4OAc (79.00 g, 1.02 mol) according to the protocols as outlined in general procedure B described above.

reactant | 4-methyl-indan-1-one | 34.20 mmol, 5.00 g | CC1=C2CCC(C2=CC=C1)=O | C10H10O
reactant | NaBH3CN | 0.24 mol, 15.00 g | [BH3-]C#N.[Na+]
product | 4-Methyl-indan-1-ylamine | CC1=C2CCC(C2=CC=C1)N | C10H13N
